US08912224B2
To a solution of 6-bromo-2-o-tolyl-chroman (1 g, 3.3 mmol) in tetrahydrofuran (3 ml) at −78° C. n-butyllithium (2.2 M in cyclohexan, 1.8 ml, 1.2 eq) was slowly added and the mixture kept at −78° C. for 30 min. Triisopropyl borate (1.9 g, 2.3 ml, 9.9 mmol, 3 eq) was added and stirring was continued at the same temperature for 1 h. The cold solution was poured in a solution of ethanol (1.1 ml), water (3.0 ml) and aqueous sodium hydroxide (8 M, 1.6 ml). To this solution hydrogen peroxide (aqueous 35%, 0.9 ml, 3.1 eq) was slowly added while the temperature was kept <30° C. Stirring at room temperature was continued for 15 min, the suspension was cooled to 0° C. and adjusted to pH<7 using aqueous hydrochloric acid. To the resulting solution a saturated aqueous solution of sodium sulfite (4 ml) was added and the aqueous layer extracted with ethyl acetate. The combined organic layers were dried with sodium sulfate and filtered, and the solvent removed under reduced pressure. The crude product was purified by column chromatography (silica gel; ethyl acetate/heptane gradient). 2-o-Tolyl-chroman-6-ol was obtained as a pale yellow solid (480 mg, 60%).

reactant | 6-bromo-2-o-tolyl-chroman | 3.3 mmol, 1 g | BrC=1C=C2CCC(OC2=CC1)C1=C(C=CC=C1)C | C16H15BrO
reactant | n-butyllithium | 2.2 M, 1.8 ml, 1.2 eq | C(CCC)[Li]
reactant | Triisopropyl borate | 9.9 mmol, 2.3 ml, 1.9 g, 3 eq | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | sodium hydroxide | 8 M, 1.6 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 0.9 ml, 3.1 eq | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium sulfite | 4 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 3.0 ml | O | H2O
solvent | ethanol | 1.1 ml | C(C)O | C2H6O
product | 2-o-Tolyl-chroman-6-ol | C1(=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)O)C | C16H16O2
